US08076324B2
4-Methylsulfanyl-1H-benzoimidazole
6 g of 3-methylsulfanyl-2-nitrophenylamine were dissolved in 150 ml of glacial acetic acid and 60 ml of trimethyl orthoformate. Zinc powder (7 g) was added and the mixture was stirred for 2 h at 60° C. The solids were removed by filtration, the solvent was evaporated in vacuo and the residue was taken up in water and EA (200 ml each) and made basic with potassium carbonate. The precipitate was filtered off and the filtrate was extracted with EA, the combined organic phases were washed with brine, dried over sodium sulfate and the solvent removed in vacuo. The crude product was purified by flash chromatography (200 g silica gel; DCM/MOH, gradient from 100:0 to 90:10). 2 g of the title compound were obtained as an off-white solid.

reactant | 3-methylsulfanyl-2-nitrophenylamine | 6 g | CSC=1C(=C(C=CC1)N)[N+](=O)[O-] | C7H8N2O2S
reactant | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | trimethyl orthoformate | 60 ml | C(OC)(OC)OC | C4H10O3
catalyst | Zinc | 7 g | [Zn] | Zn
product | 4-Methylsulfanyl-1H-benzoimidazole | 2 g | CSC1=CC=CC=2NC=NC21 | C8H8N2S
